US09056874B2
(±)-2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (1.16 g, 1.69 mmol) and HCl in MeOH (1.25 M, 13.59 mL, 16.99 mmol) was allowed to stir at 60° C. for 0.5 h. The reaction mixture was cooled to rt and concentrated. The residue was dissolved in a small amount of EtOAc, and then diluted with heptanes. The precipitated solid was collected on a Kiriyama funnel, washed with hexane, dried under reduced pressure to give the title compound. MS (ESI+) m/z 553.3 (M+H).

reactant | (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C34H37F3N4O4SSi
reactant | (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 1.69 mmol, 1.16 g | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C34H37F3N4O4SSi
reactant | HCl | Cl | ClH
reactant | MeOH | 16.99 mmol, 1.25 M, 13.59 mL | CO | CH4O
product | (±)-2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(O)C1=NC2=C(N1)C=CC(=C2)C#N | C28H23F3N4O3S
